* NGSPICE file created from SMCNR_SE_2st_AMP_flat.ext - technology: sky130A

.subckt SMCNR_SE_2st_AMP_flat vdda gnda vin vip ibias vout
X0 a_4024_586# ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X1 vout a_20_494# gnda gnda sky130_fd_pr__nfet_01v8 ad=0.259 pd=3.31 as=0.259 ps=3.31 w=1.48 l=10
X2 gnda a_2100_n30# a_20_494# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X3 vdda ibias a_745_2846# vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X4 vout ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.055 pd=0.94 as=0.055 ps=0.94 w=0.22 l=10.25
X5 a_2100_n30# vin a_4024_586# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
X6 gnda a_2100_n30# a_4345_n10# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X7 a_4024_586# vip a_20_494# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
C0 a_2100_n30# a_4024_586# 0.016632f
C1 vdda a_20_494# 0.156333f
C2 vip a_20_494# 0.376615f
C3 vin a_2100_n30# 0.433347f
C4 ibias a_4024_586# 0.028778f
C5 vout a_20_494# 0.968451f
C6 vdda a_2100_n30# 1.22141f
C7 ibias a_745_2846# 0.038594f
C8 ibias vin 0.002127f
C9 vip a_2100_n30# 0.114147f
C10 ibias vdda 5.70801f
C11 vout a_2100_n30# 4.18e-19
C12 ibias vip 0.057465f
C13 vdda a_4345_n10# 0.005259f
C14 ibias vout 0.065017f
C15 a_2100_n30# a_20_494# 0.120446f
C16 ibias a_20_494# 0.013677f
C17 vin a_4024_586# 0.913068f
C18 vdda a_4024_586# 0.680837f
C19 vdda a_745_2846# 0.010817f
C20 vip a_4024_586# 0.37862f
C21 vdda vin 1.40613f
C22 a_4345_n10# a_2100_n30# 0.088027f
C23 vip vin 0.002455f
C24 vdda vip 1.58082f
C25 vdda vout 0.603423f
C26 vout vip 0.090546f
C27 vin gnda 1.3278f
C28 vip gnda 1.21457f
C29 vout gnda 0.403453f
C30 ibias gnda 5.353971f
C31 vdda gnda 47.4421f
C32 a_4345_n10# gnda 0.065072f
C33 a_2100_n30# gnda 6.408319f
C34 a_20_494# gnda 3.52469f
C35 a_4024_586# gnda 0.427798f
.ends
